data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,5933,"C1=CC2=C(C=C1)[NH:1]C1=C2C=CC=C1.COC(=O)[C+:2]([Cu])C1=CC=CC=C1|(1, 2)"
train,pmechdb_split_0,0,6807,"CO.OC1=C(C2(C3=CC=CC=C3)CCOC2=[O+:1][CH3:2])C=CC=C1.[Br-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9439,"CCC[N+:1](CCC)=[C:2]1CCCC[CH:3]1[H:4].CCC[NH:5]CCC.[OH][Ti-]([Cl])([Cl])([Cl])[Cl]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,10249,"O[CH+:1][S-:2]|(2, 1)"
train,pmechdb_split_0,0,158,"CC[O:1][H:2].I[C-:3](I)I|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7098,"CC#CC(CC)=[N-:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,423,"CC=CCO[S:1](=O)(C(F)(F)F)([O-:2])[O:3]S(=O)(=O)C(F)(F)F|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1251,"CC(C)[C:1]1([H:2])SC=C[CH+:3]1.[F-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,7837,"C=CC(C)=O.CCO.CC[N+:1]1=[C:2]([C:3](O)(C2=CC(OC)=C(OC)C(OC)=C2)[H:4])SC(CCO)=C1C.CC[N:5](CC)CC.[Br-]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,2121,"CC(N=CC1=CC=C([N+](=O)[O-])C=C1)(C(C1=CC=CC=C1)[CH-:1]C=O)C(F)(F)F.[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9764,"C=C(C)C[OH:1].C[C+:2](C)CO|(1, 2)"
train,pmechdb_split_0,0,8985,"[AlH3-][O]CC#[C-:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8794,"C=C[CH2:1][Br:2].CC12CCCC=C1[CH:3]=[C:4]([N:5]1CCCC1)CC2|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,3053,"C[Si-:1](C)(C)(F)[CH2:2][CH2:3][OH:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8272,"C1=CC=NC=C1.CCC1=C(CC2=CC=CC=C2)[O+:1]=[C:2](C)[CH:3]1[Si-:4](C)(C)(F)C(C)(C)C|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,4099,"CC1(C)CCC[CH:1]=[C:2]1C1=CC=CC=C1.[H:3][Cl:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7063,"C1[CH2:1][OH+:2]1.CC[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5748,"COCC1CCCN1[N+:1](=C1C=C(C)CCC1)[H:2].COCC1CCCN1[NH2:3].O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7729,"CC[C:1](=[CH:2]CC1(C)CCCCC1=O)[O-:3].[H:4][OH:5]|(3, 1);((1, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,278,"CC[OH+:1][CH:2]1CCCCO1|((2, 1), 1)"
train,pmechdb_split_0,0,845,"CCC1=C(C(C)[OH:1])C=CC(C)=C1.CCC1=C2SC([S-])=NC2=C(C)C=C1.CCCCC[P+:2](CC)(CCC)SC1=NC2=C(S1)C(CC)=CC=C2C|(1, 2)"
train,pmechdb_split_0,0,1945,"CC[O:1][H:2].O=C1CCC2CCCCC2([O-:3])C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2093,"CC(C)(C)C1=CC=C(C(=O)CCC(C2=CC=C(C(C)(C)C)C=C2)=[O:1])C=C1.CCOCC.F[B:2](F)F|(1, 2)"
train,pmechdb_split_0,0,6316,"C[C:1](=[CH:2][H:3])[Br:4].[NH2-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,3135,"C[O:1][H:2].OCC=CC[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,679,"C[CH2][Al-]([Cl])([Cl])[O]C12CCCC(C1)[C+](C[Si:1](C)(C)C)C2.[Cl-:2]|(2, 1)"
train,pmechdb_split_0,0,9476,"CN(C)C1=CC=[N:1]C=C1.N#CC1=CC=C([CH2:2][Br:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7233,"CC1(C2=CC=CC=C2)CC[CH:1]=[C:2]1C1=CC=CC=C1.[H:3][Cl:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3142,"CCCC1=CC=C([CH:1]([C:2](C)([C:3]2=CC=CC(C3CCCCC3)=C2)[OH:4])[OH2+:5])C=C1.O=S(=O)([O-])C1=CC=C(C(F)(F)F)C=C1|(4, 2);((2, 3), 1);((1, 5), 5)"
train,pmechdb_split_0,0,5472,"Cl[P:1](Cl)Cl.[Cl][Mg+:2]|(1, 2)"
train,pmechdb_split_0,0,10027,"C1=CC=C(C[C:1](OC(=NC2CCCCC2)NC2CCCCC2)=[O:2])C=C1.C1=C[N:3]=CC=C1N1CCCC1.CCOC(=O)CC=CCO|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6369,"C1=CC=[N+:1]([H:2])C=C1.CC(C)=O.CC1(O)CCC(O)([O:3]CCO)CC1.CC1=CC=C(S(=O)(=O)[O-])C=C1.O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2368,"C[O:1]C.C[Si:2](C)(C)Br|(1, 2)"
train,pmechdb_split_0,0,8773,"CC1=CC=C(S(=O)(=O)[O-:1])C=C1.OC1([N+:2]2([H:3])CCOCC2)CCC2(CC1)OCCO2|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4228,"CC1CCC2(C)CCC3(C)C(=CC(=O)C4C5(C)CC(C#N)[C:1](=[O:2])C(C)(C(=O)OC(C)(C)C)C5CCC43C)C2C1C.CO.[H:3][BH3-:4]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,893,"CN[C:1](OC)=[O:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3259,"COC1=C([NH3+])C=CC(C(O)(O)[O+:1](C)[H:2])=C1.C[OH:3].O=S(=O)([O-])O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5328,"C[P+:1](C)(C)[Li:2]|((2, 1), 1)"
train,pmechdb_split_0,0,1357,"C[O+:1]=[CH2:2].[F-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4775,"I[PH+:1](I)[O:2][CH3:3].[I-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,3073,"CC[NH:1]CC.C[C:2](N)=[OH+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7868,"CN[C:1](CCC=O)([O:2]C(C)=O)[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4474,"CCC[N+:1](CCC)(C1([O][Ti-]([Cl])([Cl])([Cl])[Cl])CCCCC1)[H:2].CCC[NH:3]CCC|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5132,"CC(=[C+]CC(CCC1=CC=CC=C1)[O][Ti-:1]([Cl])([Cl])([Cl])[Cl:2])[Si](C)(C)C|((1, 2), 2)"
train,pmechdb_split_0,0,5038,"N#CC1=C[C:1](S(=O)(=O)O)([H:2])[CH+:3]O1.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,4757,"C[Si](C)(C)C[CH2:1][OH+:2][B-](F)(F)F|((1, 2), 2)"
train,pmechdb_split_0,0,3634,"C1=CC=C(C[NH2:1])C=C1.C1=CC=[NH+]C=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.CCOC(=O)C12CCC(C[C:2]1=[O:3])C2(C)C|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,140,"C=C1CC2C[C:1](=[O:2])[C:3](C)(C1)[C:4]2(OC)[O-:5].[Na+]|(5, 4);((4, 3), 1);((1, 2), 2)"
